US06627755B1
3-(2-Chloro-phenyl)-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-thieno[3,2-d]pyrimidin-4-one Hydrochloride
To a mixture of 3-(2-chloro-phenyl)-4-oxo-3,4-dihydro-thieno[3,2-d]pyrimidine-2-carbaldehyde (0.326 g, 1.13 mmol) and 3-(pyrrolidin-1-yl-methyl)-aniline (0.132 g, 0.75 mmol) in dichloroethane (10 mL) was added sodium triacetoxyborohydride (0.477 g, 2.25 mmol) portionwise. The reaction was stirred for 24 hours, and then carefully poured into saturated aqueous sodium bicarbonate and repeatedly extracted with chloroform. The combined organic phase was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (12 g, packed in chloroform). After eluting with chloroform (25 mL), elution was continued with 2-5% methanol/chloroform. Fractions containing the product [silica gel tic R,=0.20 (9:1 chloroform/methanol with 1% triethylamine)] were combined and concentrated to afford 0.166 9 (53%) of the free base of the title product as a viscous oil which had: 1H NMR δ 7.84 (d, J=5.5 Hz, 1H), 7.65 (m, 1H), 7.52 (sym m, 2H), 7.40 (d, J=5 Hz, 1H), 7.37 (m, 1H), 7.07 (t, J=8 Hz, 1H), 6.66 (d, J=7.5 Hz, 1H), 6.61 (s, 1H), 6.37 (dd, J=2, 8 Hz, 1H), 5.02 (br t, J=5 Hz, 1H), 3.94 (dd, J=5, 17 Hz, 1H), 3.84 (dd, J=5, 17 Hz, 1H), 3.51 (s, 2H), 2.48 (br s, 4H), 1.75 (br s, 4H). This oil was taken up in ether and treated with 1 N ethereal hydrochloric acid (0.75 mL, 0.75 mmol). The resulting slurry was concentrated and dried to afford 0.115 g (31%) of 3-(2-chloro-phenyl)-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-thieno[3,2-d]pyrimidin-4-one hydrochloride as a tan solid which had: mp 148-151° C.

reactant | 3-(2-chloro-phenyl)-4-oxo-3,4-dihydro-thieno[3,2-d]pyrimidine-2-carbaldehyde | 1.13 mmol, 0.326 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)SC=C2)C=O | C13H7ClN2O2S
reactant | 3-(pyrrolidin-1-yl-methyl)-aniline | 0.75 mmol, 0.132 g | N1(CCCC1)CC=1C=C(N)C=CC1 | C11H16N2
reactant | sodium triacetoxyborohydride | 2.25 mmol, 0.477 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 3-(2-Chloro-phenyl)-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-thieno[3,2-d]pyrimidin-4-one Hydrochloride | Cl.ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)SC=C2)CNC2=CC(=CC=C2)CN2CCCC2 | InChI=1S/C24H23ClN4OS.ClH/c25-19-8-1-2-9-21(19)29-22(27-20-10-13-31-23(20)24(29)30)15-26-18-7-5-6-17(14-18)16-28-11-3-4-12-28;/h1-2,5-10,13-14,26H,3-4,11-12,15-16H2;1H
